US07582657B2
(2E)-N-Benzothiazol-6-yl-3-[2-bromo-4-(trifluoromethyl)phenyl]prop-2-enamide
Analogous to the procedure used to prepare Example 1, (2E)-3-[2-bromo-4-(trifluoromethyl)phenyl]prop-2-enoic acid, Example 97(e), (140 mg, 0.47 mmol) and 6-aminobenzothiazole (86 mg, 0.57 mmol, Lancaster) provided, after purification by silica gel chromatography (gradient: 0-30% EtOAc in hexane), the title product as an off-white solid. MP 214-215° C. MS (ESI, pos. ion) m/z: 427 (M+1).

reactant | (2E)-3-[2-bromo-4-(trifluoromethyl)phenyl]prop-2-enoic acid | BrC1=C(C=CC(=C1)C(F)(F)F)/C=C/C(=O)O | C10H6BrF3O2
reactant | 6-aminobenzothiazole | 0.57 mmol, 86 mg | NC1=CC2=C(N=CS2)C=C1 | C7H6N2S
product | (2E)-N-Benzothiazol-6-yl-3-[2-bromo-4-(trifluoromethyl)phenyl]prop-2-enamide | S1C=NC2=C1C=C(C=C2)NC(\C=C\C2=C(C=C(C=C2)C(F)(F)F)Br)=O | C17H10BrF3N2OS
